US05399703
N-[2-[2-(1H-Tetrazol-5-yl)phenylsulfinyl]phenyl]-4-hexyloxybenzamide
To a solution of 2.5 g of N-[2-[2-(1H-tetrazol-5yl)phenylthio]phenyl]-4-hexyloxybenzamide in 30 ml of chloroform was added 1.5 g of 80% m-chloroperbenzoic acid, and the mixture was stirred at room temperature for 2 hours, at the end of which time the solvent was distilled off. Then, ethyl acetate-chloroform was added to the residue and the resulting crystals were collected by filtration and recrystallized from ethanol-chloroform to give 0.67 g of the title compound as white crystals, m.p. 206°-210° C. (decomp.)

reactant | N-[2-[2-(1H-tetrazol-5yl)phenylthio]phenyl]-4-hexyloxybenzamide | 2.5 g | N1N=NN=C1C1=C(C=CC=C1)SC1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCCC)=O | C26H27N5O2S
reactant | m-chloroperbenzoic acid | 1.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[2-(1H-Tetrazol-5-yl)phenylsulfinyl]phenyl]-4-hexyloxybenzamide | 0.67 g | N1N=NN=C1C1=C(C=CC=C1)S(=O)C1=C(C=CC=C1)NC(C1=CC=C(C=C1)OCCCCCC)=O | C26H27N5O3S
